US04965274
To a stirring solution of 2-butyl-3,4-dihydro-7-(2-quinolylmethoxy)-1(2H)-naphthalenone (718 mg) in methanol (7 ml) in an ice bath was added dropwise a solution of sodium borohydride (114 mg) in methanol (7 ml). The mixture was stirred for half an hour at the same temperature and then diluted with chloroform (80 ml). The solution was washed with water (80 ml). The aqueous layer was extracted three times with chloroform. The combined organic layers were washed with water, dried and concentrated in vacuo to give an oily residue. The residue was dissolved in ether (200 ml) and thereto 2N-hydrogen chloride in ethyl acetate (1 ml) was added dropwise with stirring in an ice bath. The precipitates were collected by filtration and washed with ether to yield 2-butyl-7-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1naphthol hydrochloride (700 mg).

reactant | 2-butyl-3,4-dihydro-7-(2-quinolylmethoxy)-1(2H)-naphthalenone | 718 mg | C(CCC)C1C(C2=CC(=CC=C2CC1)OCC1=NC2=CC=CC=C2C=C1)=O | C24H25NO2
reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
solvent | methanol | 7 ml | CO | CH4O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-butyl-7-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1naphthol hydrochloride | 700 mg | Cl.C(CCC)C1C(C2=CC(=CC=C2CC1)OCC1=NC2=CC=CC=C2C=C1)O | InChI=1S/C24H27NO2.ClH/c1-2-3-6-19-10-9-17-12-14-21(15-22(17)24(19)26)27-16-20-13-11-18-7-4-5-8-23(18)25-20;/h4-5,7-8,11-15,19,24,26H,2-3,6,9-10,16H2,1H3;1H
